US05273986
A mixture of 0.865 g of (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester, 0.5 g of sodium borohydride, 75 ml of tetrahydrofuran and 20 ml of methanol was stirred under a positive nitrogen atmosphere for 20 hr. The reaction mixture was condensed in vacuo and the residual materials were mixed with water and extracted with methylene chloride. The combined extracts were washed with water, dried (MgSO4) and condensed in vacuo. The residual materials were further purified by chromatography over florisil using ethyl acetate as the eluant to yield (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzyl alcohol.

reactant | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester | 0.865 g | COC(C1=C(C=CC=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C25H24N2O3S
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzyl alcohol | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(CO)C=CC=C1)=O | C24H24N2O2S
